US06281243B1
2 g of 5-chloro-2,3-dihydro-1H-inden-4-ol were stirred in 75 ml of a 2N sodium hydroxyde solution for 1 hour. To the clear solution were added 75 ml of 4-methyl-2-pentanone and 3.76 g of 1-(diphenylmethyl)-3-methanesulfonyloxy-azetidine and the mixture was heated in an oil bath at 120° C. for 3.5 hours. Then another 2 g of mesylate were added and heating was continued for 64 hours. The upper layer was separated and washed with water. Evaporation in vacuo and chromatography with toluene/ethyl acetate (95:5) gave 4.22 g of 3-[(5-chloro-2,3-dihydro-1H-inden-4-yl)oxy]-1-(diphenylmethyl)-azetidine as a clear oil that solidified spontaneous. M.S. (C.I.) (M/Z): 391 [M+H]+.

reactant | 5-chloro-2,3-dihydro-1H-inden-4-ol | 2 g | ClC1=C(C=2CCCC2C=C1)O | C9H9ClO
reactant | sodium | 2N | [Na] | Na
reactant | 1-(diphenylmethyl)-3-methanesulfonyloxy-azetidine | 3.76 g | C1(=CC=CC=C1)C(N1CC(C1)OS(=O)(=O)C)C1=CC=CC=C1 | C17H19NO3S
reactant | mesylate | 2 g | S(C)(=O)(=O)[O-]
solvent | 4-methyl-2-pentanone | 75 ml | CC(CC(C)=O)C | C6H12O
product | 3-[(5-chloro-2,3-dihydro-1H-inden-4-yl)oxy]-1-(diphenylmethyl)-azetidine | 4.22 g | ClC=1C(=C2CCCC2=CC1)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24ClNO
